US07332499B2
Preparation of 1-[(trifluoroacetyl)amino]cyclopropanecarboxylic acid.
1-Carboxycyclopropanaminium chloride (0.980 g, 7.124 mmol) was suspended in methanol (14 mL) and triethylamine (1.514 g, 14.960 mmol) was subsequently added. To this suspension was then added ethyl trifluoroacetate (1.113 g, 7.836 mmol) and allowed to stir at 25° C. After 16 hours, the reaction was quenched with 1N hydrochloric acid and extracted with ethyl acetate. The organic extract was dried with sodium sulfate, filtered and concentrated under reduced pressure to produce the title compound as a white solid. 1H NMR (400 MHz, (CD3)2SO) δ 12.76 (s, 1H), 9.94 (s, 1H), 1.38-1.44 (m, 2H), 1.08-1.14 (m, 2H).

reactant | 1-Carboxycyclopropanaminium chloride | 7.124 mmol, 0.980 g | [Cl-].C(=O)(O)C1(CC1)[NH3+]
reactant | triethylamine | 14.960 mmol, 1.514 g | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 7.836 mmol, 1.113 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | methanol | 14 mL | CO | CH4O
product | 1-[(trifluoroacetyl)amino]cyclopropanecarboxylic acid | FC(C(=O)NC1(CC1)C(=O)O)(F)F | C6H6F3NO3
